US05504101
The aidehyde 5-phenethyl-3-formylindole (0.15 g, 0.6 mmol), nitromethane (0.9 ml) and ammonium acetate (0.05 g, 0.7 mmol) were heated gently under reflux for 0.5 h. On cooling, crystals slowly separated. Crystallization from methanol gave of 5-(2-phenylethyl)-3-(2-nitroethenyl)indole as crystals.

reactant | 5-phenethyl-3-formylindole | 0.6 mmol, 0.15 g | C(CC1=CC=CC=C1)C=1C=C2C(=CNC2=CC1)C=O | C17H15NO
reactant | ammonium acetate | 0.7 mmol, 0.05 g | C(C)(=O)[O-].[NH4+]
reactant | nitromethane | 0.9 ml | [N+](=O)([O-])C | CH3NO2
product | 5-(2-phenylethyl)-3-(2-nitroethenyl)indole | C1(=CC=CC=C1)CCC=1C=C2C(=CNC2=CC1)C=C[N+](=O)[O-] | C18H16N2O2
